US08809361B2
1″-(2-Hydroxy-2-methyl-propyl)-5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
A mixture of 5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (HCl salt; 50 mg) and K2CO3 (17 mg) in methanol (4 mL) is stirred at room temperature for 15 min prior to the addition of isobutylene oxide (20 μL). The reaction vessel is sealed and the mixture is stirred at 60° C. overnight. After cooling to room temperature, the mixture is concentrated and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate/methanol 5:4:1→0:9:1) to give the title compound. LC (method 1): tR=0.71 min; Mass spectrum (ESI+): m/z=457 [M+H]+.

reactant | 5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | 50 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN1)OC1(CC3(CCNCC3)C1)C2 | C21H24N2O3S
reactant | K2CO3 | 17 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | isobutylene oxide | 20 μL | CC1(C)CO1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | 1″-(2-Hydroxy-2-methyl-propyl)-5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | OC(CN1CCC2(CC1)CC1(C2)CC=2C(=CN=C(C2)C2=CC=C(C=C2)S(=O)(=O)C)O1)(C)C | C25H32N2O4S
